US07223764B2
2,4-Bis(2,2,2-trifluoroethoxy)-6-methyl-3-nitropyridine (45.00 g, 134.7 mmol) was dissolved in isopropanol (300 mL), and a solution of sodium dithionite (78.00 g, 448.0 mmol) in water (300 mL) was added thereto under stirring at 80° C. Fifteen minutes after starting of the reaction, a solution of sodium dithionite (16.50 g, 94.8 mmol) in water (51 mL) was added to the reaction mixture. Further, 25 minutes after starting of the reaction, a solution of sodium dithionite (11.10 g, 63.8 mmol) in water (51 mL) was added to the reaction mixture and then stirred for ten minutes. After completion of reaction, 4 mol/L aqueous sulfuric acid (201 mL) was added to the reaction mixture, followed by stirring for 30 minutes at 90° C. After the reaction mixture was allowed to cool, 28% aqueous ammonia (360 mL) was added thereto under cooling with ice, followed by stirring for 30 minutes. The reaction mixture was diluted with water and then extracted with chloroform. The organic layer was washed with saturated brine and then dried over sodium sulfate anhydrate, followed by concentration under reduced pressure. The thus-obtained crystals were recrystallized from hexane, to thereby yield 3-amino-2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridine (32.91 g, yield 80%) as pale yellow needles.

reactant | 2,4-Bis(2,2,2-trifluoroethoxy)-6-methyl-3-nitropyridine | 134.7 mmol, 45.00 g | FC(COC1=NC(=CC(=C1[N+](=O)[O-])OCC(F)(F)F)C)(F)F | C10H8F6N2O4
reactant | sodium dithionite | 448.0 mmol, 78.00 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 94.8 mmol, 16.50 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 63.8 mmol, 11.10 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sulfuric acid | 4 mol/L, 201 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 360 mL | N | H3N
solvent | isopropanol | 300 mL | C(C)(C)O | C3H8O
solvent | water | 300 mL | O | H2O
solvent | water | 51 mL | O | H2O
solvent | water | 51 mL | O | H2O
product | 3-amino-2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridine | 32.91 g, yield 80% | NC=1C(=NC(=CC1OCC(F)(F)F)C)OCC(F)(F)F | C10H10F6N2O2
